US07378417B2
5-(4-Chloro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-methanesulfonyl-phenyl)-amide
The title compound was prepared from 5-(4-chloro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.4) and 3-methanesulfonyl-phenylamine [commercially available as hydrochloride] according to general procedure II. Yellow solid. MS (ISP) 495.3 [(M+H)+]; mp 305° C.

reactant | 5-(4-chloro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C(=O)O | C14H7ClF3N3O2
reactant | 3-methanesulfonyl-phenylamine | CS(=O)(=O)C=1C=C(C=CC1)N | C7H9NO2S
reactant | hydrochloride | Cl | ClH
product | 5-(4-Chloro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-methanesulfonyl-phenyl)-amide | CS(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)Cl | C21H14ClF3N4O3S
